US04102854
polyundecanolactam (nylon 11)
polyamide of dodecamethylenediamine and n-dodecanedioic acid (nylon 12:12)

reactant | dodecamethylenediamine | NCCCCCCCCCCCCN | C12H28N2
reactant | n-dodecanedioic acid | C(CCCCCCCCCCC(=O)O)(=O)O | C12H22O4
product | polyundecanolactam | C(CCCCCN)CCCCC(=O)O | C11H23NO2
